US04831265
In 2 ml of acetic acid was dissolved 0.36 g of 2,3-dimethoxy-5-methyl-1,4-benzoquinone. The solution was allowed to react in a manner similar to that of Example 1 with bis(acetoxyacetyl)peroxide prepared from 0.41 g of acetyl glycollic acid chloride. The reaction product was purified by means of chromatography on silica-gel to give 29 mg of 6-acetoxymethyl-2,3-dimethoxy-5-methyl-1,4-benzoquinone. NMR spectrum (δ value in CDCl3): 2.07 (3H, s, CH3), 2.12 (3H, s, COCH3), 4.03 (6H, s, OCH3), 5.00 (2H, s, CH2)

reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 0.36 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | bis(acetoxyacetyl)peroxide | C(C)(=O)OCC(=O)OOC(COC(C)=O)=O | C8H10O8
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 6-acetoxymethyl-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 29 mg | C(C)(=O)OCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C12H14O6
